US04699926
Step C: 3-[2,3-Dichloro-4-(2-methylenebutyryl)-phenoxy]propionic acid
3-(2,3-Dichloro-4-butyrylphenoxy)propionic acid (6.65 g, 0.022 mole), dimethylamine hydrochloride (12 g, 0.15 mole), paraformaldehyde (2.3 g, 0.077 equiv.) and acetic acid (1 ml) were mixed and stirred while heating on a steam bath for 2.5 hours. N,N-dimethylformamide (25 ml) was added to the mixture and stirring and heating continued for another 1.5 hours. The mixture was poured into ice water (600 ml) and the precipitate that formed removed by filtration, washed with water and dried. After recrystallization from butyl chloride, 58 g 3-[2,3-dichloro-4-(2-methylenebutyryl)phenoxy]-propionic acid remained.

reactant | 3-(2,3-Dichloro-4-butyrylphenoxy)propionic acid | 0.022 mole, 6.65 g | ClC1=C(OCCC(=O)O)C=CC(=C1Cl)C(CCC)=O | C13H14Cl2O4
reactant | dimethylamine hydrochloride | 0.15 mole, 12 g | Cl.CNC
reactant | paraformaldehyde | 2.3 g, 0.077 equiv. | C=O | CH2O
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 3-[2,3-Dichloro-4-(2-methylenebutyryl)-phenoxy]propionic acid | ClC1=C(OCCC(=O)O)C=CC(=C1Cl)C(C(CC)=C)=O | C14H14Cl2O4
